US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylthiazol-4-yl)pyrazole
To a solution of 5-amino-4-bromoacetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.1 g) in ethanol (5 ml) was added thioacetamide (0.0375 g). After 1 hour at room temperature the mixture was evaporated and the residue was purified by column chromatography on silica gel (10 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 226-8° C.

reactant | 5-amino-4-bromoacetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(CBr)=O | C13H6BrCl2F3N4O
reactant | thioacetamide | 0.0375 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylthiazol-4-yl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=1N=C(SC1)C | C15H8Cl2F3N5S
